US06949543B2
A methanol-chloroform (40 ml-20 ml) solution of N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-benzothiazol-6-yl-4-oxocyclohexanecarboxyamide (430 mg) was mixed with sodium borohydride (0.19 g) at 0° C. and then stirred at room temperature for 1 hour. The reaction solution was mixed with water and extracted with chloroform, the organic layer was dried with anhydrous sodium sulfate and filtered, and then the solvent was evaporated under a reduced pressure. The thus obtained crude product was purified by SCG (chloroform/methanol/27% aqueous ammonia=94.8/5/0.2). This was dissolved in chloroform-methanol (10 ml-10 ml) and mixed with 4 M hydrogen chloride in ethyl acetate (1 ml), and then the solvent was evaporated under a reduced pressure. By recrystallizing the thus obtained crude crystals from isopropyl alcohol-ethyl acetate (3/1), 259 mg of N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-benzothiazol-6-yl-4-hydroxycyclohexanecarboxyamide monohydrochloride (pale yellow crystals) was obtained.

reactant | methanol chloroform | 40 ml-20 ml | CO.C(Cl)(Cl)Cl
reactant | N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-benzothiazol-6-yl-4-oxocyclohexanecarboxyamide | 430 mg | NC=1SC=C(N1)C1=CC=C(C=C1)NC(=O)CN(C(=O)CC1CCC(CC1)=O)C1=CC2=C(N=CS2)C=C1 | C26H25N5O3S2
reactant | sodium borohydride | 0.19 g | [BH4-].[Na+]
solvent | water | O | H2O
product | N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-benzothiazol-6-yl-4-hydroxycyclohexanecarboxyamide monohydrochloride | 259 mg | Cl.NC=1SC=C(N1)C1=CC=C(C=C1)NC(=O)CN(C(=O)CC1CCC(CC1)O)C1=CC2=C(N=CS2)C=C1 | InChI=1S/C26H27N5O3S2.ClH/c27-26-30-22(14-35-26)17-3-5-18(6-4-17)29-24(33)13-31(19-7-10-21-23(12-19)36-15-28-21)25(34)11-16-1-8-20(32)9-2-16;/h3-7,10,12,14-16,20,32H,1-2,8-9,11,13H2,(H2,27,30)(H,29,33);1H
